US07700616B2
2-(3-methoxyphenyl)oxazol-4(5H)-one (16)
2 g (1 eq) of 3-methoxybenzamide was mixed with 3.1 ml (2.7 eq) of chloroacethylchloride and the resulting mixture was heated at 110° C. for 1 h. After cooling, the resulting solid was recrystallized in CHCl3. The resulting solid was added to a suspension of NaH (489 mg, 1.1 eq) in DME at 0° C. After 30 min, the resulting mixture was refluxed for 5 h, cooled to RT and hydrolyzed, extracted with AcOEt, washed with NaCl salt and dried. The resulting solid was recrystallized in a mixture hexane/AcOEt giving 16 as a white solid in 26% yield.

reactant | 3-methoxybenzamide | 2 g, 1 eq | COC=1C=C(C(=O)N)C=CC1 | C8H9NO2
reactant | NaH | 489 mg, 1.1 eq | [H-].[Na+]
reactant | DME | COCCOC | C4H10O2
product | 2-(3-methoxyphenyl)oxazol-4(5H)-one | 26% yield | COC=1C=C(C=CC1)C=1OCC(N1)=O | C10H9NO3
